US04063929
b. Dimethylammonium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate
5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid (2.0 g) is dissolved in toluene and an excess of anhydrous dimethylamine is bubbled into the reaction mixture, the solvent removed in vacuo and the residue triturated with cold diethyl ether to give 1.1 g of product.

reactant | 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid | 2.0 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | Dimethylammonium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 1.1 g | ClC1=C(OC=2C=CC(=C(C(=O)[O-])C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F.C[NH2+]C | InChI=1S/C14H7ClF3NO5.C2H7N/c15-10-5-7(14(16,17)18)1-4-12(10)24-8-2-3-11(19(22)23)9(6-8)13(20)21;1-3-2/h1-6H,(H,20,21);3H,1-2H3
